US08871756B2
2-Amino-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]butanamide
The title compound was prepared in analogy to Example 40-2 in Scheme 18 by using 2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine, 2-bromobutyryl chloride and sodium azide. MS obsd. (ESI+) [(M+H)+] 439, 1H NMR (400 MHz, CD3OD) δ ppm 8.07 (m, 3 H), 7.53 (m, 2 H), 7.45 (m, 2 H), 5.33 (m, 2 H), 4.32 (m, 1 H), 3.59 (m, 2 H), 3.37 (s, 3 H), 2.44 (m, 2 H), 1.70 (d, J=8.02 Hz, 1 H), 1.38 (d, J=2.56 Hz, 2 H), 1.22 (m, 3 H).

reactant | 2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N)C)=O | C19H19N3O2S
reactant | 2-bromobutyryl chloride | BrC(C(=O)Cl)CC | C4H6BrClO
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | 2-Amino-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]butanamide | NC(C(=O)NC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)CC | C23H26N4O3S
